US07115611B2
B] 2-Methyl-2-(2-methyl-5-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester
0.24 g (1.0 mmol) of the above prepared 2-(5-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester, 0.31 g (1.10 mmol) of 2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol (see below example 70E]) and 0.32 g (1.20 mmol) of triphenylphosphine were dissolved in 10 ml of THF. The stirred reaction mixture was cooled down to 0° C. and a solution of 0.27 g (1.15 mmol) of di-tert.-butyl azodicarboxylate in 5 ml of THF was added drop by drop. Then, the reaction warmed up to ambient temperature. After 20 hours, the solvent was evaporated and the residue purified by chromatography (SiO2, heptane/EtOAc=95:5 to 9:1) to give 0.23 g of the title compound as colorless oil.

reactant | 2-(5-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=CC(=C1)O)C)=O | C13H18O4
reactant | 2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol | 1.10 mmol, 0.31 g | CC1=NC(=CC=C1CCO)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NO
reactant | triphenylphosphine | 1.20 mmol, 0.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert.-butyl azodicarboxylate | 1.15 mmol, 0.27 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Methyl-2-(2-methyl-5-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester | 0.23 g | C(C)OC(C(C)(OC1=C(C=CC(=C1)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C28H30F3NO4
